US08168796B2
After charging 7.4 parts of 7-diethylamino-4-[(p-bromphenyl)]coumarin synthesized by a known method, 2.4 parts of phenylacetylene, 0.46 parts of tetrakis(triphenylphosphine)palladium(0), 0.038 parts of copper iodide and 20 ml of triethylamine in 40 ml of THF, the mixture was refluxed for 9 hours. The reaction mixture was filtered and washed with THF, and the obtained filtrate was concentrated and then diluted with water and filtered. The obtained cake was recrystallized from methanol. Upon drying under reduced pressure there was obtained 2.2 parts of 7-diethylamino-4-[4-(phenylethynyl)phenyl]coumarin having a melting point of 136-138° C.

reactant | 7-diethylamino-4-[(p-bromphenyl)]coumarin | C(C)N(C1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)Br)CC | C19H18BrNO2
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | [Cu](I)I
product | 7-diethylamino-4-[4-(phenylethynyl)phenyl]coumarin | C(C)N(C1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)C#CC1=CC=CC=C1)CC | C27H23NO2
